US07408065B2
(b) 6-Chloro-2-methyl-5-quinolinecarboxylic Acid
Crotonaldehyde (1.5 mL) was added dropwise over a period of 1 hour to a mixture of 5-amino-2-chlorobenzoic acid (1.7 g), ferrous sulphate heptahydrate (0.77 g), sodium m-nitrobenzenesulphonate (1.2 g) and concentrated hydrochloric acid (11 mL) at 95° C. The reaction mixture was heated for a further 15 minutes then filtered whilst still hot. The collected solid was extracted with boiling 2M aqueous hydrochloric acid solution (20 mL) and the extract combined with the filtrate. Ammonium acetate was then added to give a solution of pH 4, which was cooled in ice and the resultant precipitate collected by filtration and washed with water. The product was converted to its hydrochloride salt by treatment with hydrochloric acid (4M in 1,4-dioxane) and the solid dried in vacuo to give the sub-title compound (0.5 g) as a solid.

reactant | Crotonaldehyde | 1.5 mL | C(\C=C\C)=O | C4H6O
reactant | 5-amino-2-chlorobenzoic acid | 1.7 g | NC=1C=CC(=C(C(=O)O)C1)Cl | C7H6ClNO2
reactant | sodium m-nitrobenzenesulphonate | 1.2 g | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)[O-].[Na+]
reactant | hydrochloric acid | 11 mL | Cl | ClH
product | 6-Chloro-2-methyl-5-quinolinecarboxylic Acid | 0.5 g | ClC1=C(C=2C=CC(=NC2C=C1)C)C(=O)O | C11H8ClNO2
